US05968944
(R)-2-{4-[4-(3-Ethoxymethyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-3,5-diethyl-pyrazol-1-yl]-3,5-dimethylphenyl}-propan-2-ol
To a solution of n-butyl lithium (2.5 M hexane solution; 0.16 ml, 0.39 mmol) chilled to -78° C., a solution of (R)-2-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline (180 mg, 0.35 mmol) in anhydrous tetrahydrofuran (1.0 ml) was added dropwise. After stirring at -78° C. for 10 minutes, anhydrous acetone (0.078 ml, 1.1 mmol) was added. The resulting mixture was warmed to ambient temperature, and stirred at that temperature for 1 hour. The reaction was quenched by addition of aqueous ammonium chloride (2 ml) and then extracted with ethyl acetate/water (5 ml of each). The separated organic extract was then extracted with an equal volume solution of aqueous ammonium chloride. The combined aqueous extracts were then extracted with a fresh equal-volume portion of ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, and concentrated in vacuo to afford a yellow oil. Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with ethyl acetate/hexane=1:2 in volume) afforded the title compound (120 mg) as a faint yellow oil.

reactant | n-butyl lithium | 0.39 mmol, 2.5 M, 0.16 ml | C(CCC)[Li]
reactant | (R)-2-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline | 0.35 mmol, 180 mg | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CN1CC2=CC=CC=C2C[C@@H]1COCC)CC)C | C28H36BrN3O
reactant | acetone | 1.1 mmol, 0.078 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | (R)-2-{4-[4-(3-Ethoxymethyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-3,5-diethyl-pyrazol-1-yl]-3,5-dimethylphenyl}-propan-2-ol | 120 mg | C(C)OC[C@@H]1N(CC2=CC=CC=C2C1)CC=1C(=NN(C1CC)C1=C(C=C(C=C1C)C(C)(C)O)C)CC | C31H43N3O2
